US04391817
8-bromo-3,7-dihydro-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(1H)-one
3,7-dihydro-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(1H)-one (5.0 g, 0.020 mole) is dissolved in methanol (150 ml) and the obtained solution is cooled to -60° C. and stirred during the addition of a solution of bromine (3.4 g, 0.021 mole) in methanol (10 ml). After 20 minutes at -60° C., the reaction mixture is poured into an aqueous solution of NaHCO3 (1.5% w/v, 750 ml). The precipitate which forms is recovered by filtration and crystallized from methanol yielding 4.2 g of the compound of the title. M.p. 200°-2° C.

reactant | 3,7-dihydro-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(1H)-one | 0.020 mole, 5.0 g | CC=1N(C=C2NC(CN=C(C21)C2=CC=CC=C2)=O)C | C15H15N3O
reactant | bromine | 0.021 mole, 3.4 g | BrBr | Br2
reactant | NaHCO3 | 750 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 8-bromo-3,7-dihydro-6,7-dimethyl-5-phenylpyrrolo[3,4-e][1,4]diazepin-2(1H)-one | BrC=1N(C(=C2C1NC(CN=C2C2=CC=CC=C2)=O)C)C | C15H14BrN3O
